US08106190B2
In dichloromethane, a mixture of 4-chloro-2-[(2-hydroxyethyl)amino]benzoic acid and 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one was treated with 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide hydrochloride at room temperature to obtain 4-chloro-2-[(2-hydroxyethyl)amino]-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide.

reactant | 4-chloro-2-[(2-hydroxyethyl)amino]benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NCCO | C9H10ClNO3
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
reactant | 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-2-[(2-hydroxyethyl)amino]-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide | ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NCCO | C19H20ClN3O3
